US04430346
A mixture of 1.3 g of (S)-7-guanidino-3-hydroxyheptanamide hydrochloride, 5 ml of pyridine, and 5 ml of propionic anhydride was stirred for 2 hours at 60° C. The reaction mixture was diluted with ice water, concentrated under reduced pressure, and dissolved in 10 ml of 0.5 M aqueous sodium chloride solution. The resulting solution was passed through a column packed with Diaion® HP-20 which had been equilibrated with 0.5 M aqueous sodium chloride solution and washed successively with 0.5 M and 0.2 M aqueous sodium chloride solutions. The fractions eluted with water and 30% aqueous methanol were collected and concentrated under reduced pressure to obtain 1.26 g (78.5% yield) of (S)-7-guanidino-3-propionyloxyheptanamide hydrochloride in oily form. NMR: 1.10 (CH3), 1.4 to 1.9 (CH2 x3), 2.32 (COCH2), 2.51 (CH2), 3.21 (NCH2), 5.22 (CH).

reactant | (S)-7-guanidino-3-hydroxyheptanamide hydrochloride | 1.3 g | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)O
reactant | propionic anhydride | 5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (S)-7-guanidino-3-propionyloxyheptanamide hydrochloride | 1.26 g, 78.5% yield | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)OC(CC)=O | InChI=1S/C11H22N4O3.ClH/c1-2-10(17)18-8(7-9(12)16)5-3-4-6-15-11(13)14;/h8H,2-7H2,1H3,(H2,12,16)(H4,13,14,15);1H/t8-;/m0./s1
